US05650133
(a) Tetrahydroquinoxaline bis(chloroacetamide)
To a 1 L three-necked round bottomed flask equipped with a magnetic stir bar, reflux condenser and addition funnel, was added chloroacetyl chloride (9.6 mL, 0.120 mol) and CHCl3 (100 mL). The addition funnel was charged with a solution of tetrahydroquinoxaline (8.0 g, 0.0596 mol) and triethylamine (20.8 mL) in CHCl3 (100 mL). The flask was chilled to 0° C., and the amine was slowly added to the acid chloride. After the addition was complete, the mixture was allowed to warm to ambient temperature and stir for 1 hour. The flask was then cooled to 0° C. and H2O (50 mL) was slowly added. The mixture was diluted with CHCl3 (250 mL) and the layers were separated. The organic layer was washed with H2O (50 mL), 0.05N NaOH (2×50 mL), H2O (50 mL), 1N HCl (3×50 mL) and H2O (2×50 mL), and was dried over anhydrous Na2SO4. The solution was filtered and concentrated to a brown solid. The solid was collected by filtration, washed with 2-propanol (2×30 mL) and diethylether (2×40 mL) and dried to yield the title product (4.41 g, 51.5%). 1H NMR (DMSO-d6): δ 3.89 (s, 4 H), 4.01 (s, 4 H), 7.25 (s, 2 H), 7.65 (br s, 2 H).

reactant | chloroacetyl chloride | 0.120 mol, 9.6 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | tetrahydroquinoxaline | 0.0596 mol, 8.0 g | N1CCNC2=CC=CC=C12 | C8H10N2
reactant | triethylamine | 20.8 mL | C(C)N(CC)CC | C6H15N
reactant | H2O | 50 mL | O | H2O
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 250 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | Tetrahydroquinoxaline bis(chloroacetamide) | 4.41 g, 51.5% | ClCC(=O)N.ClCC(=O)N.N1CCNC2=CC=CC=C12 | InChI=1S/C8H10N2.2C2H4ClNO/c1-2-4-8-7(3-1)9-5-6-10-8;2*3-1-2(4)5/h1-4,9-10H,5-6H2;2*1H2,(H2,4,5)
